US04066776
1-methyl-3-nitro-4-pyrazolecarboxamide
Seven gm. of 1-methyl-3-nitro-4-pyrazolecarbonyl chloride was added in portions to 50 ml. of concentrated NH4OH. The mixture was heated at reflux for 15 to 20 minutes, evaporated to dryness, and cooled. The resultant crystallized product was identified as 1-methyl-3-nitro-4-pyrazolecarboxamide, m.p. 190°-192° C.

reactant | 1-methyl-3-nitro-4-pyrazolecarbonyl chloride | CN1N=C(C(=C1)C(=O)Cl)[N+](=O)[O-] | C5H4ClN3O3
reactant | NH4OH | [NH4+].[OH-]
product | 1-methyl-3-nitro-4-pyrazolecarboxamide | CN1N=C(C(=C1)C(=O)N)[N+](=O)[O-] | C5H6N4O3
